US07129232B2
To a stirred solution of 3-amino-2-hydroxypropanoic acid (2.1 g) in tetrahydrofuran (30 ml) and water (30 ml) was added 1N aqueous sodium hydroxide solution to make the solution basic (pH=9). To the mixture was added di-tert-butyl dicarbonate (4.36 g), and the mixture was stirred at room temperature for 4 hours keeping pH of the mixture between 8.5 and 9.0. The whole mixture was washed with diethyl ether. The aquous layer was made acidic (pH=2) with 10% aqueous potassium hydrogen sulfate, saturated with sodium chloride and extracted with ethyl acetate. The extract was dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give 3-[(tert-butoxycarbonyl)amino]-2-hydroxypropanoic acid (3.96 g).

reactant | 3-amino-2-hydroxypropanoic acid | 2.1 g | NCC(C(=O)O)O | C3H7NO3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 4.36 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 3-[(tert-butoxycarbonyl)amino]-2-hydroxypropanoic acid | 3.96 g | C(C)(C)(C)OC(=O)NCC(C(=O)O)O | C8H15NO5
